US07678384B2
Finely powdered potassium carbonate (7.29 g, 52.2 mmol) was added to a solution of 5-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulphonylpyrazole (10.00 g, 19.3 mmol) in dry N,N-dimethylformamide (85 ml) and stirred for 1 hour at 20° C. 2-(Methylamino)ethanol (3.11 ml, 38.7 mmol) was then added and stirring continued for 2 hours at 20° C. The resulting mixture was poured into saturated ammonium chloride solution, extracted with ethyl acetate, and the organic layer washed with water and brine, dried (sodium sulfate), evaporated and purified by column chromatography eluting with hexane and ethyl acetate (2:1) to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-[N-(2-hydroxyethyl)-N-methylamino]-4-trifluoromethylsulfonylpyrazole as a fine white powder (5.65 g, yield 57%), 19F-NMR: −63.7, −78.4.

reactant | potassium carbonate | 52.2 mmol, 7.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulphonylpyrazole | 19.3 mmol, 10.00 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H2BrCl2F6N3O2S
reactant | 2-(Methylamino)ethanol | 38.7 mmol, 3.11 ml | CNCCO | C3H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-[N-(2-hydroxyethyl)-N-methylamino]-4-trifluoromethylsulfonylpyrazole | 5.65 g, yield 57% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(C)CCO)S(=O)(=O)C(F)(F)F)C#N | C15H10Cl2F6N4O3S
